US06127354
(2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid (133 mg, 0.52 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). 1-Hydroxy-7-azabenzotriazole (71 mg, 0.52 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (100 mg, 0.52 mmol) was added. The solution was stirred for 10 min at 0° C. A solution of (2R)-N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (262 mg, 0.52 mmol) in dichloromethane (2 ml) and ethyldiisopropylamine (0.09 ml, 0.52 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (30 ml) and washed with 10% sodium hydrogen sulfate solution (20 ml). The aqueous phase was extracted with ethyl acetate (2×20 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (100 g), using ethyl acetate/heptane (2:1) as eluent, to give 261 mg of N-((3E)-4-(N-((1R)-1-(N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enyl)-N-methylcarbamic acid tert-butyl ester.

reactant | (2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid | 0.52 mmol, 133 mg | C(C)(C)(C)OC(=O)N(C)C(C/C=C/C(=O)O)(C)C | C13H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.52 mmol, 71 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.52 mmol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.52 mmol, 262 mg | OCCOC1=C(C=CC=C1)CCN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C25H30N2O3
reactant | ethyldiisopropylamine | 0.52 mmol, 0.09 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-((3E)-4-(N-((1R)-1-(N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enyl)-N-methylcarbamic acid tert-butyl ester | 261 mg | C(C)(C)(C)OC(N(C)C(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)OCCO)=O)=O)(C)C)=O | C38H51N3O6
